US04983619
(iii) 2-Amino 4-(4-(1,1-dimethylethyl)phenyl)pyrimidine
Sodium metal (10.4 g) was added to absolute ethanol (40 ml). When all the sodium had dissolved, the sodium ethoxide solution so formed was added to a mixture of guanidine carbonate (1.56 g) and (1-(N,N-dimethylamino)-3-(4-(1,1-dimethylethyl) phenyl)prop-1-en-3-one (2.5 g) dissolved in absolute ethanol (40 ml) and the mixture heated under reflux with stirring overnight. The reaction was followed by tlc. On cooling the solid material formed was filtered and washed with water to remove Na2CO3 to give a white crystalline solid, m.p. 186° C.

reactant | guanidine carbonate | 1.56 g | C(O)(O)=O.NC(=N)N
reactant | 1-(N,N-dimethylamino)-3-(4-(1,1-dimethylethyl) phenyl)prop-1-en-3-one | 2.5 g | CN(C)C=CC(=O)C1=CC=C(C=C1)C(C)(C)C | C15H21NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-Amino 4-(4-(1,1-dimethylethyl)phenyl)pyrimidine | NC1=NC=CC(=N1)C1=CC=C(C=C1)C(C)(C)C | C14H17N3
